US09328110B2
The general method described in Steps 9 and 10 of Example 1 was used to aminate 1-(3,3-diethoxyproyl)-2-propyl-1H-imidazo[4,5-c]quinoline (4.50 g, 13.2 mmol) by reaction with m-CPBA (5.3 g) to provide 1-(3,3-diethoxypropyl)-5-oxido-2-propyl-1H-imidazo[4,5-c]quinoline followed by reaction with p-toluenesulfonyl chloride (4.89 g, 25.7 mmol) and ammonium hydroxide solution (40 mL) to provide 1-(3,3-diethoxypropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine as grey needles after recrystallization from methanol, mp 148-150° C.

reactant | 1-(3,3-diethoxyproyl)-2-propyl-1H-imidazo[4,5-c]quinoline | 13.2 mmol, 4.50 g | C(C)OC(CCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)OCC | C20H27N3O2
reactant | m-CPBA | 5.3 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 1-(3,3-diethoxypropyl)-5-oxido-2-propyl-1H-imidazo[4,5-c]quinoline | C(C)OC(CCN1C(=NC=2C=[N+](C=3C=CC=CC3C21)[O-])CCC)OCC | C20H27N3O3
